US06884774B2
To a solution of (2-phenyl-1,3-dioxan-5-yl)methanol (2.0 g) in dichloromethane (40 ml) were added pyridinium chlorochromate (11.6 g) and molecular seaves 4A powder (5.0 g) with stirring and the mixture was stirred at ambient temperature for 5 hours. To a reaction mixture was added dichloromethane (100 ml) and the insoluble material was filtered off with celite and the filtrates were washed in turn with water, saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give 2-phenyl-1,3-dioxane-5-carbaldehyde (0.52 g). This compound was immediately used as the starting compound for the next step.

reactant | (2-phenyl-1,3-dioxan-5-yl)methanol | 2.0 g | C1(=CC=CC=C1)C1OCC(CO1)CO | C11H14O3
reactant | pyridinium chlorochromate | 11.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-phenyl-1,3-dioxane-5-carbaldehyde | 0.52 g | C1(=CC=CC=C1)C1OCC(CO1)C=O | C11H12O3
